US07781610B2
Synthesis of Tricyclohexyltin Chloride
In a 500 mL three-necked flask, trimethylsilyl chloride (170 g, 109 mmol) was added to tricyclohexyltin hydroxide (80 g, 133 mmol) and heated at reflux during 18 hours. After distillation of trimethylsilyl chloride in excess and hexamethyldisiloxane under reduced pressure, the crude product was recrystallized in petroleum ether. White needles were obtained (39.82 g, 79.6 mmol).

reactant | trimethylsilyl chloride | 109 mmol, 170 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | tricyclohexyltin hydroxide | 133 mmol, 80 g | [OH-].C1(CCCCC1)[Sn+](C1CCCCC1)C1CCCCC1
product | Tricyclohexyltin Chloride | C1(CCCCC1)[Sn](C1CCCCC1)(C1CCCCC1)Cl | InChI=1S/3C6H11.ClH.Sn/c3*1-2-4-6-5-3-1;;/h3*1H,2-6H2;1H;/q;;;;+1/p-1
